US08309718B2
Step 2: tert-butyl 4-(cyanomethyl)-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate
To a solution of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (4.3 g, 0.022 mol) in acetonitrile (50 mL) was added tert-butyl 4-(cyanomethylene)piperidine-1-carboxylate (4.9 g, 0.022 mol), followed by 1,8-diazabicyclo[5.4.0]undec-7-ene (3.3 mL, 0.022 mol). The resulting mixture was stirred at room temperature overnight. After being evaporated to dryness, the residue was purified on silica gel, eluting with 0-100% EtOAc in hexanes, to give the desired product (5.62 g, 61%). LCMS (M+H) 417.1.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.022 mol, 4.3 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | tert-butyl 4-(cyanomethylene)piperidine-1-carboxylate | 0.022 mol, 4.9 g | C(#N)C=C1CCN(CC1)C(=O)OC(C)(C)C | C12H18N2O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.022 mol, 3.3 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | tert-butyl 4-(cyanomethyl)-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 5.62 g, 61% | C(#N)CC1(CCN(CC1)C(=O)OC(C)(C)C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C21H33BN4O4
